US06180622B2
2-Iodoacetamide (96.1 mg) is added to a solution of 33.9 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate described in Example 23-a) in 0.5 ml of dry acetone, and the mixture is stirred in an argon atmosphere at room temperature for 20 hr. The solvent is removed by evaporation under reduced pressure, and the residue is purified by column chromatography on Sephadex LH-20 (dichloromethane:methanol=1:1) to give 34.5 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[6-(carbamoylmethyl)imidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide as a slightly yellow solid.

reactant | 2-Iodoacetamide | 96.1 mg | ICC(=O)N | C2H4INO
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 33.9 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=CN2C(S1)=CN=C2)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O6S2
solvent | acetone | 0.5 ml | CC(=O)C | C3H6O
product | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[6-(carbamoylmethyl)imidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide | 34.5 mg | [I-].C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=C[N+]=2C(S1)=CN(C2)CC(N)=O)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C29H35N5O7S2.HI/c1-5-7-40-28(38)25-26(16(3)24-23(17(4)35)27(37)34(24)25)43-20-10-18(33(12-20)29(39)41-8-6-2)9-19-11-32-15-31(13-21(30)36)14-22(32)42-19;/h5-6,11,14-18,20,23-24,35H,1-2,7-10,12-13H2,3-4H3,(H-,30,36);1H/t16-,17-,18-,20+,23-,24-;/m1./s1
